US06903131B2
To a solution of methyl 3-methoxythiophene carboxylate (2.0 g, 11.6 mmol) in 20 mL of THF at room temperature was added dropwise a 1.0 M sodium hydroxide aqueous solution (17.0 mL, 17.0 mmol). After addition, the mixture was heated to 75° C. (oil bath temperature) and continued for 18 h. The mixture was cooled to room temperature, treated with a 1.0 M hydrochloride aqueous solution until pH approximately being 2. The acidified mixture was extracted with 100 mL of CH2Cl2—CH3CN (1:1, v/v), 50 mL of CH2Cl2, and 50 mL of CH3CN. The combined organic extracts were washed with brine (30 mL), dried over Na2SO4, and concentrated under reduced pressure to a solid, which was further dried on high vacuum, yielding 1.84 g (100%) of 3-methoxythiophene carboxylic acid (MH+=159.0).

reactant | methyl 3-methoxythiophene carboxylate | 11.6 mmol, 2.0 g | COC1=C(SC=C1)C(=O)OC | C7H8O3S
reactant | sodium hydroxide | 17.0 mmol, 1.0 M, 17.0 mL | [OH-].[Na+]
reactant | hydrochloride | 1.0 M | Cl | ClH
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 3-methoxythiophene carboxylic acid | 1.84 g, 100% | COC1=C(SC=C1)C(=O)O | C6H6O3S
